US05958910
4-(2-Fluoro-5-trifluoromethyl-phenyl)-thiazol-2-ylamine hydrobromide
A solution of 5.8 g of 2-bromo-1-(2-fluoro-5-trifluoromethyl-phenyl)-ethanone in 44 ml of methanol was treated at room temperature with 2.2 g of thiourea and boiled for 1 hour. 2.8 g of 4-(2-fluoro-5-trifluoromethyl-phenyl)-thiazol-2-ylamine hydrobromide separated as colorless crystals upon cooling to 0° C. and after the addition of 15 ml of diethyl ether.

reactant | 2-bromo-1-(2-fluoro-5-trifluoromethyl-phenyl)-ethanone | 5.8 g | BrCC(=O)C1=C(C=CC(=C1)C(F)(F)F)F | C9H5BrF4O
reactant | thiourea | 2.2 g | NC(=S)N | CH4N2S
solvent | methanol | 44 ml | CO | CH4O
product | 4-(2-Fluoro-5-trifluoromethyl-phenyl)-thiazol-2-ylamine hydrobromide | Br.FC1=C(C=C(C=C1)C(F)(F)F)C=1N=C(SC1)N | InChI=1S/C10H6F4N2S.BrH/c11-7-2-1-5(10(12,13)14)3-6(7)8-4-17-9(15)16-8;/h1-4H,(H2,15,16);1H
